US04822805
To a solution of 1-hydroxy-2-(2-methoxy-4-methylphenyl)-4-methyl-5-(3-pyridyl)imidazole (1.40 g) in N,N-dimethylformamide (28 ml), was added phosphorus trichloride (0.83 ml), and the mixture was stirred for 2 hours at ambient temperature. Then, the solution was poured into water (150 ml), and stirred for an hour at ambient temperature. After neutrallized with aqueous sodium bicarbonate, resulting precipitates were collected by filtration. The precipitates were dried, dissolved in chloroform, and chromatographed on silica gel eluting with a mixture of chloroform and methanol. The fractions were collected, evaporated and triturated in diisopropyl ether to give 2-(2-methoxy-4-methylphenyl)-4-methyl-5-(3-pyridyl)imidazole (0.82 g)

reactant | 1-hydroxy-2-(2-methoxy-4-methylphenyl)-4-methyl-5-(3-pyridyl)imidazole | 1.40 g | ON1C(=NC(=C1C=1C=NC=CC1)C)C1=C(C=C(C=C1)C)OC | C17H17N3O2
reactant | phosphorus trichloride | 0.83 ml | P(Cl)(Cl)Cl | Cl3P
reactant | water | 150 ml | O | H2O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | N,N-dimethylformamide | 28 ml | CN(C=O)C | C3H7NO
product | 2-(2-methoxy-4-methylphenyl)-4-methyl-5-(3-pyridyl)imidazole | 0.82 g | COC1=C(C=CC(=C1)C)C=1NC(=C(N1)C)C=1C=NC=CC1 | C17H17N3O
